US05013863
A mixture of 2.0 g ethyl 3-aminopropyl(1-hydroxybutyl)-phosphinate and 20.0 ml 2 M aqueous hydrochloric acid is refluxed for 2 hours and then evaporated to dryness. The residual oil is dissolved in 10 ml of water, and re-evaporated. The residue is dissolved in 20 ml of ethanol and treated with propylene oxide and to give 1.5 g of 3-aminopropyl(1-hydroxybutyl)phosphinic acid, m.p. 188 °.

reactant | ethyl 3-aminopropyl(1-hydroxybutyl)-phosphinate | 2.0 g | NCCCP(OCC)(=O)C(CCC)O | C9H22NO3P
reactant | hydrochloric acid | 2 M, 20.0 ml | Cl | ClH
product | 3-aminopropyl(1-hydroxybutyl)phosphinic acid | 1.5 g | NCCCP(O)(=O)C(CCC)O | C7H18NO3P
